US06897311B2
A) Preparation of decahydro-diimidazo-[1,2-a:2′,1′-c]pyrazine (IV B)
In a suitable 2 L reactor, maintained under nitrogen atmosphere, 50 g (305 mmol) of straight hydrated TETA and 1 L of absolute ethanol are loaded. To the solution 44.5 g (305 mmol) of a 40% glyoxal solution are added. After completion of the addition, the solution is kept under magnetic stirring at 23° C. for 17 hours. The resulting solution is concentrated under partial vacuum to an oily residue.

reactant | TETA | 305 mmol, 50 g | C(CNCCNCCN)N | C6H18N4
reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | ethanol | 1 L | C(C)O | C2H6O
product | decahydro-diimidazo-[1,2-a:2′,1′-c]pyrazine | N1CCN2C1C1N(CC2)CCN1 | C8H16N4
